US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[3-(2-oxo-pyrrolidin-1-yl)-propoxy]-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 6, using 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester, 1-(3-hydroxypropyl)-2-pyrrolidone (commercially available), 4-chlorophenyl-boronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MSA^(ISP): 472.1 (M+H+).

reactant | 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CNC(C(=C1)Br)=O | C7H6BrNO3
reactant | 1-(3-hydroxypropyl)-2-pyrrolidone | OCCCN1C(CCC1)=O | C7H13NO2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[3-(2-oxo-pyrrolidin-1-yl)-propoxy]-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCCN1C(CCC1)=O | C25H30ClN3O4
